US09388189B2
b) 2-(((6-Amino-5-bromopyrimidin-4-yl)amino)methyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
2-(Aminomethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (420 mg, 0.97 mmol) was treated with 5-bromo-6-chloropyrimidin-4-amine (304 mg, 1.46 mmol), cesium fluoride (222 mg, 1.46 mmol) and N,N-diisopropylethylamine (0.508 mL, 2.92 mol) according to Preparation 13. The residue was purified using SP1® Purification System (0% to 10%, dichloromethane-methanol) to give 394 m g (95% yield) of the title compound as a solid. Purity 100%.

reactant | 2-(Aminomethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.97 mmol, 420 mg | NCC1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C14H14N4O
reactant | 5-bromo-6-chloropyrimidin-4-amine | 1.46 mmol, 304 mg | BrC=1C(=NC=NC1Cl)N | C4H3BrClN3
reactant | cesium fluoride | 1.46 mmol, 222 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 2.92 mol, 0.508 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-(((6-Amino-5-bromopyrimidin-4-yl)amino)methyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 95% yield | NC1=C(C(=NC=N1)NCC1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C18H16BrN7O
